US08912169B2
Step 5: Synthesis of trans 2-[4-[tert-butoxycarbonyl-[2-(methanesulfonamido)ethyl]amino]cyclohexyl]acetic acid
To a solution of ethyl 2-[4-[tert-butoxycarbonyl-[2-(methanesulfonamido)ethyl]amino]cyclohexyl]acetate (0.842 g, 2.06 mmol) in methanol (4 mL); THF (4 mL) and water (4 mL) was added lithium hydroxide monohydrate (252 mg, 6 mmol). The resulting solution was stirred for 2 hours then acidified with HCl (7 mL, 1M aq.), diluted with ethyl acetate, washed with brine, dried over magnesium sulfate and concentrated. The residue was triturated with ether to give the title compound as a solid.

reactant | ethyl 2-[4-[tert-butoxycarbonyl-[2-(methanesulfonamido)ethyl]amino]cyclohexyl]acetate | 2.06 mmol, 0.842 g | C(C)(C)(C)OC(=O)N(C1CCC(CC1)CC(=O)OCC)CCNS(=O)(=O)C | C18H34N2O6S
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide monohydrate | 6 mmol, 252 mg | O.[OH-].[Li+]
reactant | HCl | 1M, 7 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 4 mL | O | H2O
product | trans 2-[4-[tert-butoxycarbonyl-[2-(methanesulfonamido)ethyl]amino]cyclohexyl]acetic acid | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)CC(=O)O)CCNS(=O)(=O)C | C16H30N2O6S
